US07612091B2
2-Formyl-4-chlorobenzoic acid
A mixture of 2-formyl-4-chloro-N-methylbenzamide (3.19 g) and 10M hydrochloric acid (30 ml) was heated at reflux for 18 hours. The mixture was cooled and basified with saturated sodium hydrogen carbonate solution. The solution was then washed with ethyl acetate, then acidified with 2M hydrochloric acid. The product was extracted with ethyl acetate and the combined extracts dried with magnesium sulfate. The solution was then filtered and concentrated. This furnished 2-formyl-4-chlorobenzoic acid as a yellow solid (2.22 g, 75%); 1H NMR (400 MHz, CDCl3) δ 6.65 (0.5H, brs), 7.50 (2H, m), 7.65 (1H, m), 7.85 (0.5H, brm), 8.05 (1H, m).

reactant | 2-formyl-4-chloro-N-methylbenzamide | 3.19 g | C(=O)C1=C(C(=O)NC)C=CC(=C1)Cl | C9H8ClNO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | hydrochloric acid | 10M, 30 ml | Cl | ClH
product | 2-Formyl-4-chlorobenzoic acid | C(=O)C1=C(C(=O)O)C=CC(=C1)Cl | C8H5ClO3
